US04921867
2-[3-[(6-Bromohexyl)oxy]propyl]-5-nitropyridine
A mixture of 2-[3-[(6-bromohexyl)oxy]-1-propynyl]-5-nitropyridine (5 g) and dipotassium azodicarboxylate (30 g) in pyridine (200 ml) was stirred at room temperature, and acetic acid (18 ml) added. The mixture was stirred overnight and evaporated in vacuo to give a residue oil which was partitioned between 8% sodium bicarbonate (20 ml) and ethyl acetate (20 ml). The organic phase was dried and concentrated to give an oil which was purified by FCC eluting with hexane-ether (1:2→methanol) to give the title compound as an orange oil (300 mg), t.l.c. (toluene:ethanol 0.88 ammonia 80:20:1) Rf 0.75.

reactant | 2-[3-[(6-bromohexyl)oxy]-1-propynyl]-5-nitropyridine | 5 g | BrCCCCCCOCC#CC1=NC=C(C=C1)[N+](=O)[O-] | C14H17BrN2O3
reactant | dipotassium azodicarboxylate | 30 g | N(=NC(=O)[O-])C(=O)[O-].[K+].[K+]
reactant | acetic acid | 18 ml | C(C)(=O)O | C2H4O2
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 2-[3-[(6-Bromohexyl)oxy]propyl]-5-nitropyridine | 300 mg | BrCCCCCCOCCCC1=NC=C(C=C1)[N+](=O)[O-] | C14H21BrN2O3
